US07179822B2
Synthesis of 3-[5-(4-Methoxy-phenyl)-thiazol-2-yl]-benzoic acid
A solution of 1.4 g (4.3 mmol) 3-[5-(4-Methoxy-phenyl)-thiazol-2-yl]-benzoic acid methyl ester from Preparation 10 in a 3:1:1 mixture of THF/methanol/water was added 10 mL (10 mmol) 1N NaOH. The mixture was stirred 14 hours at room temperature before concentrating on a rotary evaporator. The residue was treated with 6M HCl then filtered, washed with water (1×) and dried in a vacuum oven overnight at 70° C. to provide 1.2 g (88%) of desired product.

reactant | 3-[5-(4-Methoxy-phenyl)-thiazol-2-yl]-benzoic acid methyl ester | 4.3 mmol, 1.4 g | COC(C1=CC(=CC=C1)C=1SC(=CN1)C1=CC=C(C=C1)OC)=O | C18H15NO3S
reactant | NaOH | 10 mmol, 1N, 10 mL | [OH-].[Na+]
solvent | THF methanol water | C1CCOC1.CO.O
product | 3-[5-(4-Methoxy-phenyl)-thiazol-2-yl]-benzoic acid | 1.2 g, 88% | COC1=CC=C(C=C1)C1=CN=C(S1)C=1C=C(C(=O)O)C=CC1 | C17H13NO3S
